US09079878B2
2-(4-Chloro-3-methylphenyl)-2-oxoethyl (3-{[(benzyloxy)carbonyl]amino}oxetan-3-yl)acetate
(3-{[(Benzyloxy)carbonyl]amino}oxetan-3-yl)acetic acid (Preparation 25, 0.3 g, 1.13 mmol), 2-bromo-1-(4-chloro-3-methylphenyl)ethanone (0.294 g, 1.19 mmol) and cesium carbonate (0.553 g, 1.70 mmol) were stirred in acetonitrile (10 mL) at room temperature for 2 hours. The reaction was concentrated in vacuo and partitioned between ethyl acetate and water. The organic layer was dried over MgSO4 and concentrated in vacuo to afford the title compound which was used without purification in the next step.

reactant | (3-{[(Benzyloxy)carbonyl]amino}oxetan-3-yl)acetic acid | 1.13 mmol, 0.3 g | C(C1=CC=CC=C1)OC(=O)NC1(COC1)CC(=O)O | C13H15NO5
reactant | 2-bromo-1-(4-chloro-3-methylphenyl)ethanone | 1.19 mmol, 0.294 g | BrCC(=O)C1=CC(=C(C=C1)Cl)C | C9H8BrClO
reactant | cesium carbonate | 1.70 mmol, 0.553 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 2-(4-Chloro-3-methylphenyl)-2-oxoethyl (3-{[(benzyloxy)carbonyl]amino}oxetan-3-yl)acetate | C(C1=CC=CC=C1)OC(=O)NC1(COC1)CC(=O)OCC(=O)C1=CC(=C(C=C1)Cl)C | C22H22ClNO6
